US06344565B1
44.5 g (150 mmol) of triphosgene (98% pure according to HPLC) were dissolved in 120 ml of absolute tetrahydrofuran (THF) in a 250 ml dropping funnel having a pressure balance. In so doing, no heating or gas evolution was observed. About 150 ml of triphosgene/THF solution were obtained.

reactant | triphosgene | 150 mmol, 44.5 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | triphosgene THF | 150 ml | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl.O1CCCC1 | InChI=1S/C4H8O.C3Cl6O3/c1-2-4-5-3-1;4-2(5,6)11-1(10)12-3(7,8)9/h1-4H2;
